US08314094B2
N-{[6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzenesulfonamide
While stirring a solution of [6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methylamine hydrochloride (60 mg, 0.19 mmol) in THF (1 mL) at room temperature, triethylamine (66 μL, 0.47 mmol) and 4-fluorobenzenesulfonyl chloride (44 mg, 0.23 mmol) were sequentially added thereto. After the reaction solution was stirred overnight at room temperature, water was added thereto. Then, the resulting solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by thin-layer silica gel column chromatography (ethyl acetate/hexane=1/1), whereby the objective compound (58 mg, 70%) was obtained as a white solid.

reactant | [6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methylamine hydrochloride | 0.19 mmol, 60 mg | Cl.ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CN)C1
reactant | triethylamine | 0.47 mmol, 66 μL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 0.23 mmol, 44 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{[6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzenesulfonamide | ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CNS(=O)(=O)C2=CC=C(C=C2)F)C1 | C16H11ClF4N2O4S
